US08664220B2
Step 3: N-(1-{4′-[3-Methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide
N-{1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarbonyl}-methanesulfonamide (0.103 g, 0.25 mmol), 2-bromo-6-phenylpyridine (0.059 g, 0.25 mmol), potassium carbonate (0.243 g, 0.75 mmol), and BINAP (15 mg, 0.025 mmol) were combined in THF (10 mL) and the solution was degassed with N2 for 10 minutes. Palladium(II)acetate (0.003 g, 0.0125 mmol) was added and degassing was continued for 10 minutes. The reaction mixture was sealed and heated at 65° C. overnight then poured into EtOAc/water. The organic layer was concentrated and purified by silica gel chromatography to give the title compound.

reactant | N-{1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarbonyl}-methanesulfonamide | 0.25 mmol, 0.103 g | NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C21H21N3O4S
reactant | 2-bromo-6-phenylpyridine | 0.25 mmol, 0.059 g | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
reactant | potassium carbonate | 0.75 mmol, 0.243 g | C([O-])([O-])=O.[K+].[K+]
reactant | BINAP | 0.025 mmol, 15 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Palladium(II)acetate | 0.0125 mmol, 0.003 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(1-{4′-[3-Methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide | CC1=NOC(=C1NC1=NC(=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C | C32H28N4O4S
